US08530482B2
A mixture of 0.108 g (0.56 mmol) of (5-amino-1H-pyrazol-4-yl)-thiophene-2-yl-methanone and 0.198 g (0.61 mmol) of N-[5-(3-dimethylamino-acryloyl)-2-fluoro-phenyl]-N-prop-2-ynyl-methanesulfonamide in 10 ml of glacial acetic acid was refluxed for 2 hours and then the solvent was removed by reduced pressure distillation. To the resulting residue were added 15 ml of dichloromethane and 10 ml of saturated sodium bicarbonate solution. The two layers were separated, and the aqueous layer was washed with 10 ml of dichloromethane. The organic layers were washed with 10 ml of water and dried over magnesium sulfate. The dichloromethane layer was evaporated to dryness to yield an oil which, in the presence of ethyl acetate, gave 156 mg of N-{2-fluoro-5-[3-(thiophene-2-carbonyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-phenyl}-N-prop-2-ynyl-methanesulfonamide as a solid (yield 61%).

reactant | (5-amino-1H-pyrazol-4-yl)-thiophene-2-yl-methanone | 0.56 mmol, 0.108 g | NC1=C(C=NN1)C(=O)C=1SC=CC1 | C8H7N3OS
reactant | N-[5-(3-dimethylamino-acryloyl)-2-fluoro-phenyl]-N-prop-2-ynyl-methanesulfonamide | 0.61 mmol, 0.198 g | CN(C=CC(=O)C=1C=CC(=C(C1)N(S(=O)(=O)C)CC#C)F)C | C15H17FN2O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-{2-fluoro-5-[3-(thiophene-2-carbonyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-phenyl}-N-prop-2-ynyl-methanesulfonamide | 156 mg, yield 61% | FC1=C(C=C(C=C1)C1=CC=NC=2N1N=CC2C(=O)C=2SC=CC2)N(S(=O)(=O)C)CC#C | C21H15FN4O3S2
